2177-04-21 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-4-20**] 02:57 PM
 ARTERIAL LINE - START [**2177-4-20**] 09:30 PM
   Placed in IR
   -actively bleeding on arrival, pharyngeal packing by ENT after sedation
   -placed on ventilator for respiratory support during sedation
   -received 3 u pRBCs
   -coils placed in inferior thyroidal artery by IR neuro, given
   additional 1 unit pRBC during procedure, repacked
   -No signs of bleeding o/n
   -Seen by ENT this am and packing removed, clots suctioned, no active
   bleeding
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2177-4-21**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2177-4-20**] 03:25 PM
   Midazolam (Versed) - [**2177-4-20**] 03:26 PM
   Propofol - [**2177-4-20**] 04:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-21**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 79 (70 - 100) bpm
   BP: 123/58(78) {100/45(63) - 151/65(90)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,395 mL
                                                                    407 mL
   PO:
             TF:
   IVF:
                                                                  1,995 mL
                                                                    407 mL
   Blood products:
                                                                  1,400 mL
   Total out:
                                                                    545 mL
                                                                    395 mL
   Urine:
                                                                    245 mL
                                                                    395 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,850 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (400 - 550) mL
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/43/137/25/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 274
   Physical Examination
   gen-sedated
   HEENT-no active bleeding visualized in oropharynx
   neck-+trach in place, dried blood at collar, supple, no LAD
   chest-b/l AE no w/c/r
   heart-s1s2 rrr no m/r/g
   abd-+bs, soft, NT, +Gtube in place, no erythema.
   ext-no c/c/e 2+pulses
   neuro-sedated
   Labs / Radiology
   387 K/uL
   10.1 g/dL
   117 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   99 mEq/L
   130 mEq/L
   28.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2177-4-20**]  02:42 PM
                             [**2177-4-20**]  04:15 PM
                             [**2177-4-20**]  08:25 PM
                             [**2177-4-20**]  10:07 PM
                             [**2177-4-20**]  10:46 PM
                             [**2177-4-21**]  01:32 AM
                             [**2177-4-21**]  01:45 AM
                             [**2177-4-21**]  05:45 AM
                             [**2177-4-21**]  05:55 AM
   WBC
   10.8
   9.7
   Hct
   25.8
   27.7
   27
   27.0
   28.3
   28.0
   Plt
   545
   373
   387
   Cr
   0.6
   0.5
   TCO2
   28
   29
   27
   Glucose
   100
   108
   117
   Other labs: PT / PTT / INR:13.5/27.4/1.2, ALT / AST:15/14, Alk Phos / T
   Bili:80/0.6, Differential-Neuts:79.1 %, Lymph:11.5 %, Mono:6.6 %,
   Eos:2.5 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:144 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 A/P: Pt is a 66 y.o with h.o HTN, COPD, gout, s/p CVA, s/p newly dx
   laryngeal CA who presents with bleeding from mass.
   .
   #Hemoptysis-Pt with profuse bleeding from hypopharyngeal mass. No
   bleeding seen below the mass. Suspect bleeding is from the mass and
   above into the mouth/nares. ENT packed tumor, pt to IR for coil
   embolization of inferior thyroidal artery and repacked.  Given 4 u pRBC
   total, crits now stable at 28.0. This am oropharyngeal packing removed
   by ENT, suctioning of oropharynx shows clot but no active bleeding.
   -airway control with trach/vent for now.
   -maintain active T&S
   -4 pIV
   -q4hr HCTs
   -active T+S
   -if any signs of rebleeding will emergently consult ENT for repacking
   and reactivate neuro IR
   -ENT and IR following, appreciate recs.
   -will d/c clindamycin as packing removed.
   .
   #Respiratory failure-secondary to sedation with
   fentanyl/versed/propofol. On presentation was sating 100% RA. Chest
   x-ray showed ? left lower lobe collapse.
   -Increase PEEP for reexpansion of LLL
   -Will wean mechanical sedation/ventilation as packing now removed
   .
   #S/p hypotension-pt transiently hypotensive during initial sedation
   with fetanyl and versed bolus. Transiently on neosyn during
   sedation/ENT evaluation. Currently off neosyn. S/p 4 units of PRBCs,
   and IVF. HD stable.
   .
   #SCC of the larynx-recently dx. S/p trach and G-tube. Plan per report
   was for dental procedure then chemo/radiation.
   -ENT following
   -consider heme/onc c/s
   .
   #HTN-will hold home meds for now.
   .
   #COPD-will monitor resp status/sats.
   .
   #Gout-hold allopurinol
   .
   #ETOH abuse-family states 14 beers daily, but none in ~2weeks. Had been
   getting ativan per family.
   -will monitor for signs of ETOH w/d
   -thiamine and folate
   .
   #FEN-NPO for now
   -nutrition consult for tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-4-20**] 03:01 PM  x2
   [**87**] Gauge - [**2177-4-20**] 05:09 PM x2
   Arterial Line - [**2177-4-20**] 09:30 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife/son
   [**Name (NI) 36**] status: Full code
   Disposition:- ICU

2177-04-22 07:31:00 Physician Resident Progress Note
Chief Complaint
   24 Hour Events:
 SPUTUM CULTURE - At [**2177-4-21**] 09:58 AM
   : -GPCs and GNRs on sputum gram stain
   -started on Vanc/Cefepime
   -teaspoon of blood seen when suctioning. [**Month (only) 51**] be suction trauma. Oozing
   at trach site. Called ENT. They will eval him early in the AM.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2177-4-21**] 07:45 AM
   Vancomycin - [**2177-4-21**] 08:37 PM
   Cefipime - [**2177-4-22**] 03:40 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2177-4-21**] 09:15 PM
   Propofol - [**2177-4-21**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 85 (77 - 98) bpm
   BP: 107/55(72) {97/53(68) - 158/85(110)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,207 mL
                                                                  1,388 mL
   PO:
             TF:
                                                                     40 mL
                                                                    164 mL
   IVF:
                                                                  1,977 mL
                                                                  1,224 mL
   Blood products:
   Total out:
                                                                    828 mL
                                                                    155 mL
   Urine:
                                                                    828 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                  1,233 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/46/101/23/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 202
   Physical Examination
   gen-sedated
   HEENT-no active bleeding visualized in oropharynx
   neck-+trach in place, dried blood at collar, supple, no LAD
   chest-b/l AE no w/c/r
   heart-s1s2 rrr no m/r/g
   abd-+bs, soft, NT, +Gtube in place, no erythema.
   ext-no c/c/e 2+pulses
   neuro-sedated
   Labs / Radiology
   374 K/uL
   9.4 g/dL
   115 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   20 mg/dL
   97 mEq/L
   128 mEq/L
   27.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2177-4-21**]  01:45 AM
                             [**2177-4-21**]  05:45 AM
                             [**2177-4-21**]  05:55 AM
                             [**2177-4-21**]  10:00 AM
                             [**2177-4-21**]  03:15 PM
                             [**2177-4-21**]  06:25 PM
                             [**2177-4-21**]  06:30 PM
                             [**2177-4-21**]  10:59 PM
                             [**2177-4-22**]  03:40 AM
                             [**2177-4-22**]  03:54 AM
   WBC
   9.7
   11.5
   Hct
   28.3
   28.0
   28.2
   27.9
   28.6
   28.5
   27.5
   Plt
   387
   374
   Cr
   0.5
   0.5
   TCO2
   27
   28
   28
   Glucose
   117
   115
   Other labs: PT / PTT / INR:13.4/28.4/1.2, ALT / AST:15/14, Alk Phos / T
   Bili:80/0.6, Differential-Neuts:79.1 %, Lymph:11.5 %, Mono:6.6 %,
   Eos:2.5 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:144 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 A/P: Pt is a 66 y.o with h.o HTN, COPD, gout, s/p CVA, s/p newly dx
   laryngeal CA who presents with bleeding from mass.
   .
   #Hemoptysis-Pt with profuse bleeding from hypopharyngeal mass. No
   bleeding seen below the mass. Suspect bleeding is from the mass and
   above into the mouth/nares. ENT packed tumor, pt to IR for coil
   embolization of inferior thyroidal artery and repacked.  Given 4 u pRBC
   total, crits now stable at 28.0. Oropharyngeal packing removed by ENT
   [**4-21**]. O/n had teaspoon of blood with suctioning and oozing around trach
   site.
   - ENT to see this am
   -airway control with trach/vent for now.
   -maintain active T&S
   -4 pIV
   -q4hr HCTs
   -active T+S
   -if any signs of rebleeding will emergently consult ENT for repacking
   and reactivate neuro IR
   -ENT and IR following, appreciate recs.
   -will d/c clindamycin as packing removed.
   .
   #Respiratory failure-secondary to sedation with
   fentanyl/versed/propofol. On presentation was sating 100% RA. Chest
   x-ray showed ? left lower lobe collapse.
   -Increase PEEP for reexpansion of LLL
   -Will wean mechanical sedation/ventilation as packing now removed
   .
   #Sputum culture: GPCs and GNRs on sputum gram stain
   -continue Vanc/Cefepime
   .
   #S/p hypotension-pt transiently hypotensive during initial sedation
   with fetanyl and versed bolus. Transiently on neosyn during
   sedation/ENT evaluation. Currently off neosyn. S/p 4 units of PRBCs,
   and IVF. HD stable.
   .
   #SCC of the larynx-recently dx. S/p trach and G-tube. Plan per report
   was for dental procedure then chemo/radiation.
   -ENT following
   -consider heme/onc c/s
   .
   #HTN-will hold home meds for now.
   .
   #COPD-will monitor resp status/sats.
   .
   #Gout-hold allopurinol
   .
   #ETOH abuse-family states 14 beers daily, but none in ~2weeks. Had been
   getting ativan per family.
   -will monitor for signs of ETOH w/d
   -thiamine and folate
   .
   #FEN-NPO for now
   -nutrition consult for tube feeds
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-4-21**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-4-20**] 03:01 PM
   20 Gauge - [**2177-4-20**] 05:09 PM
   Arterial Line - [**2177-4-20**] 09:30 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife/son
   [**Name (NI) 36**] status: Full code
   Disposition:- ICU